US08389520B2
Stage b) 4-(6-Hydrazinopyrimidin-4-yl)morpholine
53.0 g (2.7 mmol) 4-(6-chloropyrimidin-4-yl)morpholine are initially introduced into 260 ml ethanol. 132.9 g (2.7 mol) hydrazine hydrate are added and the mixture is stirred under reflux for 16 h. Thereafter, it is cooled to RT and approx. half of the solvent is removed by distillation. The mixture is cooled to 0° C. and the solid formed is filtered off. It is rinsed with cold ethanol and the solid is dried first in air and then in vacuo.

reactant | 4-(6-chloropyrimidin-4-yl)morpholine | 2.7 mmol, 53.0 g | ClC1=CC(=NC=N1)N1CCOCC1 | C8H10ClN3O
reactant | hydrazine hydrate | 2.7 mol, 132.9 g | O.NN
solvent | ethanol | 260 ml | C(C)O | C2H6O
product | 4-(6-Hydrazinopyrimidin-4-yl)morpholine | N(N)C1=CC(=NC=N1)N1CCOCC1 | C8H13N5O
